US06040478
In a glass reactor having a bottom outlet and equipped with a spiral-shaped stirrer and a thermocouple potassium formate (329 g) was melted under vacuum. When the temperature of the melt reached 190° C., the reactor was aerated with CO2 and potassium carbonate (125.04 g, 0.906 mole) and hydroquinone (80.06 g, 0.728 mole) were added to the melt. The reaction mixture was stirred at 200° C. under 1.5 bar CO2 for four and one-half hours. Then 250 ml of water were added to the reaction mixture, and the slurry was removed from the reactor and crystallized from 3.5 l of boiling water. After cooling, the product was filtered off and washed with ice water. Drying under vacuum at 100° C. produced 87% of pale yellow dipotassium 2,5-dihydroxyterephthalate (K2 -2,5-DHTA, 173.77 g, 0.634 mole). The filtrate was boiled down and the residue was reused in a carboxylating reaction using potassium carbonate (95.90 g, 0.695 mole) and hydroquinone (75.06 g, 0.682 mole). According to the above specification, 98% pale yellow K2 -2,5-DHTA (184.31 g, 0.673 mole) was obtained. Repetition of this recycle process using potassium carbonate (94.14 g, 0.682 mole) and hydroquinone (75.16 g, 0.683 mole) according to the above specification produced 95% pale yellow K2 -2,5-DHTA (178.65 g, 0.652 mole).

reactant | potassium formate | 329 g | C(=O)[O-].[K+]
reactant | CO2 | C(=O)=O | CO2
reactant | potassium carbonate | 0.906 mole, 125.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroquinone | 0.728 mole, 80.06 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | 250 ml | O | H2O
product | dipotassium 2,5-dihydroxyterephthalate | 0.634 mole, 173.77 g, 87% | OC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])O.[K+].[K+] | InChI=1S/C8H6O6.2K/c9-5-1-3(7(11)12)6(10)2-4(5)8(13)14;;/h1-2,9-10H,(H,11,12)(H,13,14);;/q;2*+1/p-2
